* SPICE Netlist

* Voltage Sources
V1 vi 5 DC 0
VDD 22 0 DC <VDD Value>
VSS 4 0 DC <VSS Value>

* Resistor
R1 8 3 <Resistor Value>

* NMOS Transistors (M1 to M6)
M1 6 3 8 8 NMOS
M2 3 2 6 6 NMOS
M3 4 5 7 7 NMOS
M4 4 5 5 5 NMOS
M5 5 4 5 5 NMOS
M6 7 4 5 5 NMOS

* PMOS Transistors (M7 to M10)
M7 3 3 22 22 PMOS
M8 3 3 22 22 PMOS
M9 7 3 22 22 PMOS
M10 3 3 22 22 PMOS

* End of Netlist